### PR TITLE
[Merged by Bors] - feat: nontrivial instances for valuation with `ℤᵐ⁰` as codomain

### PR DESCRIPTION
**Pull request by xgenereux**
Added instances so that `v.IsNontrivial` now implies `Nontrivial (valueMonoid v)` and `Nontrivial (valueGroup v)`.

Also added nontriviality instances for existing `ℤᵐ⁰` valuations. This is particularly useful because it allows [`Valuation.IsRankOneDiscrete.mk'`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Valuation/Discrete/Basic.html#Valuation.IsRankOneDiscrete.mk') to synthesize `IsRankOneDiscrete`.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by xgenereux** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking ad3d888616cda35c8503b3ae15cdaa0d022c6622 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/ad3d888616cda35c8503b3ae15cdaa0d022c6622)) against 8c38971b569e23002efb3f60043048cc516407a2 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/8c38971b569e23002efb3f60043048cc516407a2)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 1]
```diff
@@ -499,6 +499,20 @@ lemma not_isNontrivial_one [IsDomain R] [DecidablePred fun x : R ↦ x = 0] :
   rcases eq_or_ne x 0 with rfl | hx0 <;>
   simp_all [one_apply_of_ne_zero]
 
+instance {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀] {v : Valuation R Γ₀}
```
Comment (tb65536) [inline Mathlib/RingTheory/Valuation/Basic.lean:502]: Can you use some of the existing variables here?

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 2]
```diff
@@ -499,6 +499,20 @@ lemma not_isNontrivial_one [IsDomain R] [DecidablePred fun x : R ↦ x = 0] :
...
+    [hv : v.IsNontrivial] : Nontrivial (MonoidWithZeroHom.valueMonoid v) := by
+  obtain ⟨x, h0, h1⟩ := hv.exists_val_nontrivial
+  refine (Submonoid.nontrivial_iff_exists_ne_one (MonoidWithZeroHom.valueMonoid v)).mpr ?_
+  use (Units.mk0 (v x) h0), MonoidWithZeroHom.mem_valueMonoid v (Set.mem_range_self x)
+  simpa [Units.ext_iff] using h1
```
Comment (tb65536) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Personally I would do the opposite and be more tactic-y for the first step and more term-y for the end.
```suggestion
  rw [Submonoid.nontrivial_iff_exists_ne_one]
  exact ⟨Units.mk0 (v x) h0, ⟨x, rfl⟩, mt Units.ext_iff.mp h1⟩
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 3]
```diff
@@ -118,36 +118,20 @@ lemma generator_mem_range (K : Type*) [Field K] (w : Valuation K Γ) [IsRankOneD
...
-instance [IsRankOneDiscrete v] : Nontrivial (valueMonoid v) := by
-  by_contra! H
-  apply ((valueGroup v).nontrivial_iff_ne_bot).mp (by infer_instance)
-  apply closure_eq_bot_iff.mpr
-  rw [subsingleton_iff] at H
-  intro x hx
-  specialize H ⟨x, hx⟩ ⟨1, one_mem_valueMonoid v⟩
-  simpa using H
+  rw [← generator_zpowers_eq_valueGroup, Subgroup.isCyclic_iff_exists_zpowers_eq_top]
+  use (generator v)
```
Comment (tb65536) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: If you merge master, you can use `Subgroup.isCyclic_zpowers` from #33125

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 4]
```diff
@@ -118,36 +118,20 @@ lemma generator_mem_range (K : Type*) [Field K] (w : Valuation K Γ) [IsRankOneD
...
 
 instance [IsRankOneDiscrete v] : v.IsNontrivial := by
```
Comment (tb65536) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: I think `[IsRankOneDiscrete v]` might be duplicated.

**Review by tb65536 — APPROVED** [review]

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 1 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/Basic.lean:502]: Which one? I need `LinearOrderedComm**Group**WithZero`.

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 2 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/Basic.lean]: I have removed the `refine` as I agree `rw` is a much better fit here but I would keep the rest.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean (hunk 4 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Good catch!

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean (hunk 3 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Let's see how it affects the imports

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
